US07612060B2
Step (i): Synthesis of methyl 4-((R)-1-(4-(((R)-1-(3,4-dichlorobenzenesulfonyl)-3-oxo-1,2,3,4-tetrahydropyrazin-2-yl)methyl)-1H-1,2,3-triazol-1-yl)ethyl)benzoate (67)
To a solution of (R)-4-(3,4-dichlorobenzenesulfonyl)-3-(prop-2-ynyl)-3,4-dihydro-pyrazin-2(1H)-one (1.46 g, 4.24 mmol) and (R)-methyl 4-(1-azidoethyl)benzoate (0.870 g, 4.24 mmol) in dioxane (80 mL) and tert-butanol (120 mL) were added CuSO4.5H2O (1.11 g, 4.46 mmol in 8.0 mL H2O) and sodium-L-ascorbate (0.880 g, 4.44 mmol in 8.0 mL H2O). After 5 min, H2O (40 mL) was added and the reaction mixture was stirred for 16 h. The solvent was concentrated to approximately 40 mL under reduced pressure and diluted with 200 mL EtOAc. The layers were separated and the aqueous layer was extracted with EtOAc (1×100 mL). The extracts were washed with 5% NaHCO3 (200 mL×2), brine (200 mL×2), dried over Na2SO4 and concentrated under reduced pressure. The crude product was chromatographed on silica (100% CH2Cl2 to 10% MeOH in CH2Cl2) to yield the title compound.

reactant | (R)-4-(3,4-dichlorobenzenesulfonyl)-3-(prop-2-ynyl)-3,4-dihydro-pyrazin-2(1H)-one | 4.24 mmol, 1.46 g | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC#C | C13H10Cl2N2O3S
reactant | (R)-methyl 4-(1-azidoethyl)benzoate | 4.24 mmol, 0.870 g | N(=[N+]=[N-])[C@H](C)C1=CC=C(C(=O)OC)C=C1 | C10H11N3O2
reactant | sodium L-ascorbate | 4.44 mmol, 8.0 mL, 0.880 g | [Na].O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO
reactant | H2O | 40 mL | O | H2O
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
solvent | tert-butanol | 120 mL | C(C)(C)(C)O | C4H10O
product | methyl 4-((R)-1-(4-(((R)-1-(3,4-dichlorobenzenesulfonyl)-3-oxo-1,2,3,4-tetrahydropyrazin-2-yl)methyl)-1H-1,2,3-triazol-1-yl)ethyl)benzoate | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1[C@@H](C(NC=C1)=O)CC=1N=NN(C1)[C@H](C)C1=CC=C(C(=O)OC)C=C1 | C23H21Cl2N5O5S
